US04162252
3-[2-(3-benzamido-1-piperidyl)ethyl]indole
Following the procedure of Example 1 above 3-benzamido-1-[2-(3-indolyl)ethyl]-pyridinium bromide upon reduction with sodium borohydride in isopropanol gives the title compound.

reactant | 3-benzamido-1-[2-(3-indolyl)ethyl]-pyridinium bromide | [Br-].C(C1=CC=CC=C1)(=O)NC=1C=[N+](C=CC1)CCC1=CNC2=CC=CC=C12
reactant | sodium borohydride | [BH4-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-[2-(3-benzamido-1-piperidyl)ethyl]indole | C(C1=CC=CC=C1)(=O)NC1CN(CCC1)CCC1=CNC2=CC=CC=C12 | C22H25N3O
